US09447106B2
Step 2: 1-Benzyl-5′-oxo-2′-(4-phenoxyphenyl)-5′,6′-dihydro-4′H-spiro[piperidine-4,7′-pyrazolo[1,5-a]pyrimidine]-3′-carbonitrile
A mixture of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile (1.0 g, 3.6 mmol), ethyl 2-(1-benzylpiperidin-4-ylidene)acetate (1.1 g, 4.3 mmol) and K2CO3 (745 mg, 5.4 mmol) in DMF (20 mL) was heated to 80° C. for 16 hr under N2. The reaction was quenched with water (20 mL) and extracted with EA (20 mL×3). The combined organic layers were dried over Na2SO4, concentrated and purified by chromatography column on silica gel using 30% of EA in PE as eluant to give the product (950 mg, 54.9%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 11.92 (s, 1H), 7.84 (d, J=8.8 Hz, 2H), 7.48-7.40 (m, 2H), 7.36-7.29 (m, 4H), 7.27-7.23 (m, 1H), 7.20 (t, J=7.6 Hz, 1H), 7.15-7.07 (m, 4H), 3.55 (s, 2H), 3.01 (s, 2H), 2.81-2.73 (m, 2H), 2.39-2.27 (m, 2H), 2.26-2.16 (m, 2H), 1.83-1.74 (m, 2H). MS (ESI, m/e) [M+1]+ 489.9.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 3.6 mmol, 1.0 g | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
reactant | ethyl 2-(1-benzylpiperidin-4-ylidene)acetate | 4.3 mmol, 1.1 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC(=O)OCC | C16H21NO2
reactant | K2CO3 | 5.4 mmol, 745 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Benzyl-5′-oxo-2′-(4-phenoxyphenyl)-5′,6′-dihydro-4′H-spiro[piperidine-4,7′-pyrazolo[1,5-a]pyrimidine]-3′-carbonitrile | 950 mg, 54.9% | C(C1=CC=CC=C1)N1CCC2(CC(NC=3N2N=C(C3C#N)C3=CC=C(C=C3)OC3=CC=CC=C3)=O)CC1 | C30H27N5O2
